US06544985B2
2,2-Dimethyl-6-(3-[1,2,3]triazol-1-yl-phenyl)-[1,3]dioxin-4-one
The title compound was prepared from 3-oxo-3-(3-[1,2,3]triazol-1-yl -phenyl)-propionic acid tert.-butyl ester (Example K23) by stirring in TFA/acetone with TFAA according to general procedure L (method b). Obtained as a beige solid (7.80 g).

reactant | 3-oxo-3-(3-[1,2,3]triazol-1-yl -phenyl)-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C15H17N3O3
reactant | TFAA | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | TFA acetone | C(=O)(C(F)(F)F)O.CC(=O)C
product | 2,2-Dimethyl-6-(3-[1,2,3]triazol-1-yl-phenyl)-[1,3]dioxin-4-one | CC1(OC(=CC(O1)=O)C1=CC(=CC=C1)N1N=NC=C1)C | C14H13N3O3
